US03996227
To 50 ml. of xylene are added 1.35 g. of 7-methyl-1-isopropyl-4-phenyl-5,6,7,8-tetrahydro-2(1H)-quinazolinone and 0.32 g. sulfur. The mixture is boiled overnight (about 16 hours). The resulting solution is evaporated under pressure and the crystalline residue is recrystallized from ether/petroleum ether to give 7-methyl-1-isopropyl-4-phenyl-2(1H)-quinazolinone.

reactant | 7-methyl-1-isopropyl-4-phenyl-5,6,7,8-tetrahydro-2(1H)-quinazolinone | CC1CCC=2C(=NC(N(C2C1)C(C)C)=O)C1=CC=CC=C1 | C18H22N2O
reactant | sulfur | [S] | S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 7-methyl-1-isopropyl-4-phenyl-2(1H)-quinazolinone | CC1=CC=C2C(=NC(N(C2=C1)C(C)C)=O)C1=CC=CC=C1 | C18H18N2O
